US09302989B2
N-(4-(5-(chloromethyl)-1,2,4-oxadiazol-3-yl)phenyl)isoindoline-2-carboxamide
To a 25 mL round-bottomed flask containing (Z)—N-(4-(N′-hydroxycarbamimidoyl)phenyl)isoindoline-2-carboxamide (1.5 g, 5.06 mmol) in acetone (5 ml) was added potassium carbonate (7.00 g, 50.6 mmol) in a single portion. The reaction mixture was cooled to 0° C. and 2-chloroacetyl chloride (3.22 ml, 40.5 mmol) was added slowly. The resulting mixture was warmed to room temperature and stirred for two hours. The solvent was removed and the solid was triturated with water and then filtered with water washes. The dried solid was dissolved in DMF, heated to 100° C. and stirred for two hours. Work-up with water and dichlormethane followed by chromatography provided the title compound.

reactant | (Z)—N-(4-(N′-hydroxycarbamimidoyl)phenyl)isoindoline-2-carboxamide | 5.06 mmol, 1.5 g | O\N=C(/N)\C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C16H16N4O2
reactant | potassium carbonate | 50.6 mmol, 7.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroacetyl chloride | 40.5 mmol, 3.22 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | N-(4-(5-(chloromethyl)-1,2,4-oxadiazol-3-yl)phenyl)isoindoline-2-carboxamide | ClCC1=NC(=NO1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C18H15ClN4O2
